US05859007
3-Bromomethylbenzofuran
To a stirring solution of 912 mg (3.48 mmol, 1.2 equiv) of triphenylphosphine in 5 mL of CCl4 at 0° C. is added 165 μL (3.19 mmol, 1.1 equiv) of Br2. The resulting orange-yellow suspension is stirred 10 min at 0° C., then a solution of 430 mg (2.90 mmol) of 3-hydroxymethylbenzofuran, prepared as in Intermediate 19, in 5 mL of CCl4 is added over 2 min. The resulting solution is stirred 1.5 h at RT, and the solvent is removed in vacuo. Purification of the residue by silica gel flash column chromatography using hexane/EtOAc 20/1 as eluent afforded 500 mg of the title compound as a clear, colorless oil: 1H NMR (CDCl3, 300 MHz) δ7.71 (m, 2H), 7.50 (m, 1H), 7.37 (m, 2H), 4.62 (s, 2H); Rf =0.67 in hexane/EtOAc 5/1.

reactant | triphenylphosphine | 3.48 mmol, 912 mg, 1.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Br2 | 3.19 mmol, 165 μL, 1.1 equiv | BrBr | Br2
reactant | 3-hydroxymethylbenzofuran | 2.90 mmol, 430 mg | OCC1=COC2=C1C=CC=C2 | C9H8O2
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromomethylbenzofuran | 500 mg | BrCC1=COC2=C1C=CC=C2 | C9H7BrO
